US05817670
A 1 M-dichloromethane solution of boron tribromide (25 ml, 25 mmol) was added to a dichloromethane solution (30 ml) of 4-(3-methoxyphenyl)-1-methyl-1,8-naphthyridin-2(1H)-one (1.3 g, 4.9 mmol) at -35° C., and the mixture was gradually warmed up to room temperature and then stirred at room temperature for 2 hours. Methanol (10 ml) was added to the reaction solution at -60° C., and the mixture was warmed up to room temperature and then stirred at room temperature for 30 minutes. The reaction solution was concentrated under reduced pressure, methanol (30 ml) was added to the residue, and the mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (benzene-ethyl acetate) to give 4-(3-hydroxyphenyl)-1-methyl-1,8-naphthyridin-2(1H)-one (0.29 g, 23%).

reactant | boron tribromide | 25 mmol, 25 ml | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | 4-(3-methoxyphenyl)-1-methyl-1,8-naphthyridin-2(1H)-one | 4.9 mmol, 1.3 g | COC=1C=C(C=CC1)C1=CC(N(C2=NC=CC=C12)C)=O | C16H14N2O2
solvent | Methanol | 10 ml | CO | CH4O
product | 4-(3-hydroxyphenyl)-1-methyl-1,8-naphthyridin-2(1H)-one | 0.29 g, 23% | OC=1C=C(C=CC1)C1=CC(N(C2=NC=CC=C12)C)=O | C15H12N2O2
